US04354973
8-Chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester
In one portion 6.0 g (18.3 mmol) of 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine was added to a solution of 3.0 g (26.5 mmol) of potassium t-butoxide in 50 ml of dimethylformamide which was cooled to 0°. When solution was complete 1.8 ml (2.3 g; 24.5 mmol) of methyl chloroformate was added and the resulting mixture was stirred for 15 min. The mixture was diluted with 150 ml of water and the resulting precipitate was collected by filtration. The precipitate was dissolved in methylene chloride and washed with water. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue crystallized from ether to give an off-white solid. Recrystallization from a mixture of methylene chloride and ether gave off-white fine needles, mp 185°-186° (dec.).

reactant | 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | 18.3 mmol, 6.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3)C=C1 | C18H12Cl2N2
reactant | potassium t-butoxide | 26.5 mmol, 3.0 g | CC(C)([O-])C.[K+]
reactant | methyl chloroformate | 24.5 mmol, 1.8 ml, 2.3 g | ClC(=O)OC | C2H3ClO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 8-Chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester | COC(=O)N1C=C2CN=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl | C20H14Cl2N2O2
